Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
#ERROR!
ADMISSION LABORATORY STUDIES
#ERROR!
___ 05:51PM BLOOD WBC-6.0 RBC-3.70* Hgb-10.7* Hct-33.0* 
MCV-89 MCH-28.9 MCHC-32.4 RDW-15.2 RDWSD-50.0* Plt ___
___ 05:51PM BLOOD ___ PTT-29.2 ___
___ 05:14PM BLOOD Glucose-118* UreaN-33* Creat-1.1 Na-139 
K-4.4 Cl-104 HCO3-21* AnGap-14
___ 05:51PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-7* 
Tricycl-NEG
___ 05:14PM BLOOD Calcium-9.0 Phos-2.4* Mg-1.8
___ 05:51PM BLOOD Lipase-33

#ERROR!
DISCHARGE AND PERTINENT LABORATORY STUDIES
#ERROR!
___ 05:16AM BLOOD WBC-8.1 RBC-3.08* Hgb-8.7* Hct-28.4* 
MCV-92 MCH-28.2 MCHC-30.6* RDW-16.0* RDWSD-54.3* Plt ___
___ 06:29AM BLOOD Glucose-93 UreaN-42* Creat-1.1 Na-141 
K-5.5* Cl-109* HCO3-21* AnGap-11
___ 06:29AM BLOOD Calcium-9.3 Phos-4.4 Mg-1.9 Iron-PND

#ERROR!
REPORTS AND IMAGING STUDIES
#ERROR!
TRAUMA #3 (PORT CHEST ONLY): ___
1. Stable hiatal hernia.
2. No acute traumatic finding visualized at this chest x-ray.

CT TORSO W/O CONTRAST: ___
CT Head and Cervical Spine
1.  No evidence of acute intracranial process.  No calvarial 
fracture or definite occipital condyle fracture.
2.  No traumatic malalignment or acute fracture in the cervical 
spine.
 
CT CHEST, ABDOMEN, AND PELVIS:
1.  Acute minimally displaced fractures of the third, fourth, 
and fifth ribs anteriorly.
2.  A small amount of free fluid in the pelvis is not 
physiologic in a patient of this age.  No underlying cause or 
visualized injury identified.
3. No other evidence of solid organ injury in the abdomen or 
pelvis
4. Severe right hydroureteronephrosis as seen previously.
5.  An area of hypoenhancing cortex in the upper pole of the 
left kidney could represent pyelonephritis in the setting of 
recent urinary tract infection. However, underlying mass is not 
excluded and follow-up in 3 months with CT or MRI is recommended 
for further evaluation.
6.  Large hiatal hernia with intrathoracic location of most of 
the stomach.
7.  Unchanged 6 mm left upper lobe pulmonary nodule.

CAROTID SERIES ___:
Right ICA no  stenosis. 
Left ICA <40%  stenosis. 

TTE ___:
The left atrial volume index is normal. There is a possible 
atrial septal defect (clips 47, 51). The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a
normal cavity size. There is mild (non-obstructive) focal basal 
septal hypertrophy. There is normal regional left ventricular 
systolic function. Overall left ventricular systolic function is 
normal. The
visually estimated left ventricular ejection fraction is >=65%. 
Left ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no left ventricular outflow tract gradient at rest or 
with Valsalva
with no change with Valsalva. No ventricular septal defect is 
seen. Tissue Doppler suggests an increased left ventricular 
filling pressure (PCWP greater than 18 mmHg). There is normal 
diastolic function.
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with a 
normal ascending
aorta diameter for gender. The aortic arch is mildly dilated. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. 

#ERROR!
MICROBIOLOGY
#ERROR!
___ Urine Culture Results - ___
>100k units E. Coli

---Resistances---
Amox/Clav
Ampicillin
Ampicillin-Sulbacatam
Ceftriaxone
Cipro
Levofloxacin
Tobramycin
Bactrim 

---Susceptibilities---
Cefepime
Ceftaz
Erta
Gent
Pip/Tazo
Nitrofuratin 
(meropenem NOT tested)

___ Urine Culture 
URINE CULTURE (Preliminary):  ESCHERICHIA COLI.    
10,000-100,000 CFU/mL. 
PRESUMPTIVE IDENTIFICATION. 
                  ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------     8 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

___ Blood Culture #1 = Coagulase Negative Staph
___ 6:35 pm BLOOD CULTURE      #1 SOURCE: VENIPUNCTURE. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Ertapenem REQUESTED PER ___ ___ (___) ON 
___. 
         Ertapenem test result performed by ___. 
         Susceptible to Ertapenem.  CEFEPIME 
SUSCEPTIBLE-DOSE-DEPENDENT. 
         Interpretation of cefepime susceptibility is based on a 
dose of 1
         gram every 12h. This isolate is intermediate (I) to 
cefepime, now
         referred to as susceptible-dose dependent (SDD). SDD 
isolates can
         be treated with cefepime, but an optimized dosing 
regimen should
         be prescribed. Please contact the AST (pager ___ or 
ID for 
         assistance in determining the appropriate SDD cefepime 
dosing. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------     8 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ ___ 
11:30 AM. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ Blood Culture #1 = negative
___ Blood Culture #2 = negative

 
Brief Hospital Course:
#ERROR!
TRANSITIONAL ISSUES
#ERROR!
Discharge hgb: 8.7
Discharge Cr: 1.1

[] IV meropenem through port for 14 day course (___)
[] Can give oxycodone 10mg q6hr prn pain for another ___ days 
for rib fracture pain but would transition back to home 
medication (oxycodone-acetaminophen 5mg-325mg BID prn pain) 
after that
[] f/u BPs; stopped HCTZ due to orthostatic dizziness and ___
[] f/u urology for chronic right hydro
[] f/u heme onc for bladder cancer 
[] Has probable secundum type ASD, PCP should be aware but 
likely no need for further workup 
[] Iron deficient, would benefit from outpatient initiation of 
iron supplement. Should have colonoscopy outpatient 
[] anticipated rehab stay <30 days 

# Code Status: full presumed
# Contact Information: ___ (Daughter); ___

#ERROR!
ACUTE MEDICAL ISSUES
#ERROR!
Ms. ___ is a ___ year old female with past medical 
history significant for bladder cancer, a-fib, HTN, and HLD. She 
presented to the ___ emergency department as transfer from 
___ for evaluation s/p fall. Imaging was completed 
which demonstrated displaced fractures of the right side third, 
fourth, and fifth ribs. She was found to have a urinary tract 
infection and was initially started on ceftriaxone. She also 
developed GNR bacteremia. Subsequent susceptibilities revealed 
resistance to ceftriaxone and she was switched to meropenem. 
Urology was consulted given her history of bladder cancer with 
concern for urosepsis in the setting of chronic right 
hydronephrosis and right ureteral stone. Urology recommended a 
two week course of antibiotics and right percutaneous 
nephrostomy if her clinical state deteriorated but this was 
never needed. During this hospitalization, the patient voided 
without difficulty and ambulated early and frequently. The 
patient was adherent with respiratory toilet and incentive 
spirometry and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

ACUTE ISSUES
#ERROR!
# Ecoli Bacteremia
# E. Coli ESBL UTI:
Urine cultures from ___ grew GNRs, eventually speciating to 
ESBL E. Coli. Initially started on ceftriaxone. Urine culture 
from ___ at ___ resulted ___ with E. Coli resistant to 
ceftriaxone so switched to meropenem 500mg IV q6hrs (___) 
for 14 day course. Last positive blood culture ___ with Ecoli. 

# ___:
New ___ on ___, fluctuating from 1.1->1.3->1.0. Likely due to 
poor PO intake. Less likely worsening hydronephrosis given no 
retention on bladder scan, or pyelonephritis/renal abscess with 
no fevers, worsened pain, or worsened leukocytosis. Improved 
with IVF and Cr 1.1 on discharge. 

# Dizziness: 
Patient with dizziness upon lying back with wrist pressures 
documented in the ___. Based on slight ___, likely prerenal iso 
poor po intake. Held HCTZ and encouraged po intake. Orthostatics 
negative. Improved on discharge and continued to encourage po 
intake. 

# Right ___ Rib Fractures:
Secondary to fall. Continued Tylenol, incentive spirometry, and 
oxycodone 10mg q6hrs given uncontrolled pain (takes
oxycodone-acetaminophen ___ BID at home). Can continue for 
another ___ days for rib pain. 

# Chronic Right Hydronephrosis:
CT showed parenchymal obliteration in the right kidney with 
severe hydroureter, although this is unchanged over multiple 
prior studies and may be due to a distal stricture. ___ consulted 
and feel there is no sign of upper UTI so no need for 
intervention. 

# Fall:
Carotid series with <40% stenosis. No occipital fracture on head 
CT. TTE and telemetry unremarkable. Suspect that this was 
related to infection and possible orthostatic in nature 

CHRONIC ISSUES 
#ERROR!
# CAD: 
Continued home Atorva 40mg, aspirin 81mg, carvedilol 25mg BID, 
Imdur 30mg QD

# HTN: 
Continued home Carvedilol 25mg BID, hydralazine 50mg BID, 
losartan 100mg daily, Imdur 30mg daily. Held home HCTZ 25mg 
daily due to dizziness and ___ as above 

# Depression: 
Continued home Mirtazapine 15mg QHS, sertraline 50mg daily

# Paroxysmal atrial fibrillation: 
In sinus rhythm. Not on anticoagulation due to recurrent 
hematuria. Patient aware of stroke risk. 

# Normocytic anemia: 
Hgb ___, normal MCV, elevated RDW. No overt signs of bleeding. 
Iron studies suggest deficiency with tsat 15% (ferritin 184). 
Stable on discharge. Would benefit from outpatient initiation of 
iron supplement. Should have colonoscopy outpatient 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Montelukast 10 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
3. CARVedilol 25 mg PO BID 
4. HydrALAZINE 50 mg PO BID 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea 
6. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain - 
Moderate 
7. Myrbetriq (mirabegron) 50 mg oral DAILY 
8. Elmiron (pentosan polysulfate sodium) 100 mg oral TID 
9. Ferrous Sulfate 325 mg PO BID 
10. Losartan Potassium 100 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Atorvastatin 40 mg PO QPM 
13. Oxybutynin XL   (*NF*)  15 mg Other DAILY 
14. Hydrochlorothiazide 25 mg PO DAILY 
15. Sertraline 50 mg PO DAILY 
16. Pantoprazole 40 mg PO Q24H 
17. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID  
2.  Meropenem 500 mg IV Q8H  
3.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN pain 
RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  CARVedilol 25 mg PO BID  
7.  Elmiron (pentosan polysulfate sodium) 100 mg oral TID  
8.  Ferrous Sulfate 325 mg PO BID  
9.  HydrALAZINE 50 mg PO BID  
10.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
11.  Losartan Potassium 100 mg PO DAILY  
12.  Mirtazapine 15 mg PO QHS  
13.  Montelukast 10 mg PO DAILY  
14.  Myrbetriq (mirabegron) 50 mg oral DAILY  
15.  Oxybutynin XL   (*NF*)  15 mg Other DAILY  
16.  Pantoprazole 40 mg PO Q24H  
17.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea  
18.  Sertraline 50 mg PO DAILY  
19. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until your doctor 
says so

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#ERROR!
Gram negative rod bacteremia
Extended spectrum beta lactamase E.coli urinary tract infection
Acute kidney injury 
Dizziness
Rib fractures 
Chronic right hydronephrosis

SECONDARY DIAGNOSES
#ERROR!
Coronary artery disease
Hypertension
Depression
Atrial fibrillation off anticoagulation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU WERE ADMITTED:
- You had a fall from standing while on a blood thinner for your 
atrial fibrillation

WHAT WE DID FOR YOU: 
- You had a cat scan done which showed multiple rib fractures on 
your right side
- You were evaluated by the urology team due to your history of 
bladder cancer. We found that you had a urinary tract infection 
that had spread to your blood and we gave you antibiotics for 
this. 

WHAT YOU SHOULD DO WHEN YOU LEAVE:
- Please call your doctor or nurse practitioner or return to the 
Emergency Department if you have any concerning symptoms
*RIB FRACTURE INSTRUCTIONS:
* Your injury caused multiple right side rib fractures which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 * You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 * Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 * You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 * Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 * Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 * Do NOT smoke
 * If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 * Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

- Please resume all regular home medications, unless 
specifically advised not to take a particular medication. Also, 
please take any new medications as prescribed.
- Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon. Avoid driving or operating heavy machinery while taking 
pain medications.

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___